*60CDQ035 MCE 3/30/98
*Ref: IR Power Semiconductors Product Digest '94
*MCE 35V 60A 3us pkg:TO-3 1,3,2
.SUBCKT 60CDQ035 1 2 3
D1 1 2 DA
D2 3 2 DA
.MODEL DA D (IS=85.3N RS=700U N=1.7 BV=35 IBV=25M
+ CJO=2.47N VJ=0.75 M=0.333 TT=4.32U EG=.69 XTI=2)
.ENDS 60CDQ035


