**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Oct 12, 00
* MODEL FORMAT: SPICE3

*1 = A1, 2 = K, 3 = A2
.SUBCKT 12cgq150 1 2 3
D1 1 2 D12cgq150
D2 3 2 D12cgq150

.MODEL D12cgq150 d
+(
+		IS=2.4863e-05
+		RS=0.0252929
+		N=2
+		EG=1.3
+		XTI=0.5
+		BV=150
+		IBV=0.0001
+		CJO=6.35956e-10
+		VJ=1.5
+		M=0.562241
+		FC=0.5
+		TT=0
+		KF=0
+		AF=1
+)

.ENDS 12cgq150