**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Mar  8, 01
* MODEL FORMAT: SPICE3

*1 = A1, 2 = K, 3 = A2
.SUBCKT 35cgq100 1 2 3
D1 1 2 D35cgq100
D2 3 2 D35cgq100

.MODEL D35cgq100 d
+(
+		IS=1e-15
+		RS=0.01681
+		N=0.5
+		EG=0.608064
+		XTI=0.500208
+		BV=100
+		IBV=0.0001
+		CJO=2.00581e-09
+		VJ=1.24629
+		M=0.513186
+		FC=0.5
+		TT=1e-09
+		KF=0
+		AF=1
+)

.ENDS 35cgq100