* .: 1 = Anode .: 2 = Cathode .: 3 = Anode
.SUBCKT 20cjq030 1 2 3
D1 1 2 20cjq030
D2 3 2 20cjq030

.MODEL 20cjq030 d
+(
+IS=7.45927e-09 RS=0.0632601 N=0.89875 EG=1.3
+XTI=4 BV=30 IBV=0.0001 CJO=2.9346e-10
+VJ=0.4 M=0.427299 FC=0.5 TT=0
+KF=0 AF=1
+)

.ENDS 20cjq030