**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Dec 19, 01
* MODEL FORMAT: SPICE3
* 1 = K, 2 = A1, 3 = A2
.SUBCKT 35clq045 1 2 3
D1 2 1 D35clq045
D2 3 1 D35clq045

.MODEL D35clq045 d
+(
+		IS=2.76847e-07
+		RS=0.00674255
+		N=1.0155
+		EG=1.3
+		XTI=4
+		BV=45
+		IBV=0.0001
+		CJO=2.76301e-09
+		VJ=1.01389
+		M=0.489865
+		FC=0.5
+		TT=0
+		KF=0
+		AF=1
+)

.ENDS 35clq045