*20CTQ040 MCE 3/27/98
*Ref: IR Power Semiconductors Product Digest '94
*MCE 40V 20A 3us pkg:TO-220 1,2,3
.SUBCKT 20CTQ040 1 2 3
D1 1 2 DA
D2 3 2 DA
.MODEL DA D (IS=28.4N RS=2.1M N=1.7 BV=40 IBV=15M
+ CJO=823P VJ=0.75 M=0.333 TT=4.32U EG=.69 XTI=2)
.ENDS 20CTQ040


