* .: 1 = Anode; .: 2 = Cathode; .: 3 = Anode
.SUBCKT 32ctq030 1 2 3
D1 1 2 32ctq030
D2 3 2 32ctq030

.MODEL 32ctq030 d
+(
+IS=2.21746e-11 RS=0.01 N=0.5 EG=0.6
+XTI=2.38672 BV=30 IBV=0.00175 CJO=2.11811e-09
+VJ=1.5 M=0.499425 FC=0.5 TT=0
+KF=0 AF=1
+)

.ENDS 32ctq030