*6CWQ03F MCE 3/27/98
*Ref: IR Power Semiconductors Product Digest '94
*MCE 30V 6.6A 3us pkg:DPAK 1,2,3
.SUBCKT 6CWQ03F 1 2 3
D1 1 2 DA
D2 3 2 DA
.MODEL DA D (IS=9.38N RS=6.36M N=1.7 BV=30 IBV=20M
+ CJO=273P VJ=0.75 M=0.333 TT=4.32U EG=.69 XTI=2)
.ENDS 6CWQ03F


