**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Feb 15, 02
* MODEL FORMAT: SPICE3
* 1 = A1 ,3 = A2, 4 = K
.SUBCKT 6cwq10fn  1 3 4
D1 1 4 D6cwq10fn
D2 3 4 D6cwq10fn

.MODEL D6cwq10fn d
+(
+		IS=1.92816e-06
+		RS=0.0227346
+		N=2
+		EG=0.6
+		XTI=0.5
+		BV=100
+		IBV=0.001
+		CJO=2.9028e-10
+		VJ=0.4
+		M=0.453836
+		FC=0.5
+		TT=1e-09
+		KF=0
+		AF=1
+)

.ENDS 6cwq10fn